US04734124
Under a dry nitrogen atmosphere, 4.3 grams of 7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-one-6yl isocyanate and 4.3 g (0.037 mole) of azidotrimethylsilane were heated at reflux for approximately 18 hours. The mixture was allowed to cool to room temperature and was diluted with toluene. This mixture was poured into ice-water forming a precipitate. The precipitate was collected by vaccum filtration, and the filter cake was rinsed first with water followed by diethyl ether. The filter cake was dissolved in acetone, and the organic solution was dried over anhydrous magnesium sulfate. This mixture was filtered, and the filtrate was evaporated under reduced pressure to yield 2.2 grams of 1-(7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-one-6-yl)-1,4-dihydro-5H-tetrazol-5 one as a solid m.p. 145°-148° C.

reactant | 7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-one-6yl isocyanate | 4.3 grams | FC1=CC2=C(N(C(CO2)=O)CCC)C=C1N=C=O | C12H11FN2O3
reactant | azidotrimethylsilane | 0.037 mole, 4.3 g | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-one-6-yl)-1,4-dihydro-5H-tetrazol-5 one | 2.2 grams | FC1=CC2=C(N(C(CO2)=O)CCC)C=C1N1N=NNC1=O | C12H12FN5O3
